US04906759
(b) Production of 3-methoxy-4-thioacetoxy-2E-butenoic acid methyl ester
4.07 g (0.177 mol) of sodium is dissolved in 180 ml of methanol and cooled to 0° C. 13.47 g (0.171 mol) of thioacetic acid is instilled in this solution. Then this solution is mixed at 0° C. with a solution of 29.15 g (0.150 mol) of 3-methoxy-4-chloro-2E-butenoic acid methyl ester in 40 ml of methanol. It is stirred again overnight at room temperature. The precipitated salt is filtered off, the solvent is evaporated on the rotary evaporator and mixed with a little methylene chloride for precipitation of the remaining salt. After filtering off, evaporation of the solvent and drying of the residue in a high vacuum, 36.53 g of a yellow-colored liquid with a content according to GC of 82.8 percent is obtained. This corresponds to 30.25 g of 100 percent product ≐98.7 percent yield. Further data concerning the compound is:

reactant | sodium | 0.177 mol, 4.07 g | [Na] | Na
reactant | thioacetic acid | 0.171 mol, 13.47 g | C(C)(=S)O | C2H4OS
reactant | 3-methoxy-4-chloro-2E-butenoic acid methyl ester | 0.150 mol, 29.15 g | COC(\C=C(/CCl)\OC)=O | C6H9ClO3
solvent | methanol | 180 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | 3-methoxy-4-thioacetoxy-2E-butenoic acid methyl ester | 98.7 percent yield | COC(\C=C(/COC(C)=S)\OC)=O | C8H12O4S
